US07534891B2
a) 6-(1-Isopropyl-pyrrolidin-3-yloxy)-quinoline-2-carboxylic acid ethyl ester
A mixture of 0.960 g (0.0044 mol) of 6-hydroxy-quinoline-2-carboxylic acid ethyl ester, 2.32 g (0.0088 mmol) of triphenylphospine (Fluka), 0.739 g (0.0057 mmol) of 1-isopropyl-3-pyrrolidinol and 1.61 ml (0.0088 mmol) of di-tert.-butyl azadicarboxylate 40% in toluene in 100 ml THF was stirred for a prolonged period of time at 35° C. The mixture was filtered through a pad of silica and washed with 30 ml of THF. The mixture was evaporated to dryness and purified on silica eluting with a gradient of DCM/MeOH 98/2. The product fractions were evaporated and the residue was triturated with diethyl ether to yield after drying under vacuum 1.35 g (94%) of the title compound as white solid. MS (m/e): 329.3 (M+H)+.

reactant | 6-hydroxy-quinoline-2-carboxylic acid ethyl ester | 0.0044 mol, 0.960 g | C(C)OC(=O)C1=NC2=CC=C(C=C2C=C1)O | C12H11NO3
reactant | triphenylphospine | 0.0088 mmol, 2.32 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 1-isopropyl-3-pyrrolidinol | 0.0057 mmol, 0.739 g | C(C)(C)N1CC(CC1)O | C7H15NO
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 6-(1-Isopropyl-pyrrolidin-3-yloxy)-quinoline-2-carboxylic acid ethyl ester | C(C)OC(=O)C1=NC2=CC=C(C=C2C=C1)OC1CN(CC1)C(C)C | C19H24N2O3
